US09334290B2
A mixture of 4-bromo-7-(ethoxycarbonyl)-3-methyl-9H-carbazole-1-carboxylic acid (1.40 g, 3.72 mmol), EDC (1.070 g, 5.58 mmol), and HOBT (0.855 g, 5.58 mmol) in a mixture of THF (30 mL) and DCM (5 mL) was stirred at room temperature for 60 min. Ammonium hydroxide (0.217 mL, 5.58 mmol) was added, and the mixture was stirred at room temperature overnight. The mixture was diluted with EtOAc and washed with saturated aqueous NaHCO3. Phase separation could not be achieved, so the mixture was filtered, and the collected solid was washed sequentially with water and EtOAc, triturated with MeOH and dried. The EtOAc-water filtrate was separated and the organic phase was washed with brine, dried and concentrated. The residue was triturated with MeOH, and the resulting solid was combined with the first solid to give ethyl 5-bromo-8-carbamoyl-6-methyl-9H-carbazole-2-carboxylate as an off-white solid (1.27 g, 91% yield). Mass spectrum m/z 375, 377 (M+H)+. 1H NMR (400 MHz, DMSO-d6) δ 11.88 (s, 1H), 8.77 (d, J=8.6 Hz, 1H), 8.48 (d, J=0.9 Hz, 1H), 8.20 (br. s., 1H), 7.84 (dd, J=8.5, 1.4 Hz, 1H), 7.59 (br. s., 1H), 4.37 (q, J=7.0 Hz, 2H), 2.55 (s, 3H), and 1.37 (t, J=7.0 Hz, 3H).

reactant | 4-bromo-7-(ethoxycarbonyl)-3-methyl-9H-carbazole-1-carboxylic acid | 3.72 mmol, 1.40 g | BrC1=C(C=C(C=2NC3=CC(=CC=C3C12)C(=O)OCC)C(=O)O)C | C17H14BrNO4
reactant | EDC | 5.58 mmol, 1.070 g
reactant | HOBT | 5.58 mmol, 0.855 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Ammonium hydroxide | 5.58 mmol, 0.217 mL | [OH-].[NH4+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | ethyl 5-bromo-8-carbamoyl-6-methyl-9H-carbazole-2-carboxylate | 1.27 g, 91% yield | BrC1=C2C=3C=CC(=CC3NC2=C(C=C1C)C(N)=O)C(=O)OCC | C17H15BrN2O3
